US06498169B1
Synthesis of 4-Propargylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine
1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone (400 mg) and propargylamine (80 mg) were reacted in the same manner as described in Preparation Example 25 to give the title compound.

reactant | 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | 400 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
reactant | propargylamine | 80 mg | C(C#C)N | C3H5N
product | 4-Propargylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | C(C#C)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H29N3O3
